US07312330B2
C. 4-Chloro-7-(3-chloro-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine
7-(3-Chloro-pyridin-2-yl)-5,6,7,8-tetrahydro-3H-pyrido[3,4-d]pyrimidin-4-one (1 g crude, 3.8 mmol) was dissolved in anhydrous 1,2-dichloroethane (60 ml) and stirred under N2(g) atmosphere. The mixture was cooled to 0° C. and POCl3 (2.8 ml, 31 mmole) was added dropwise, followed by N,N-dimethylaniline (0.49 ml, 3.8 mole). The mixture was warmed to room temperature and brought to reflux for 2 hrs. After stirring at room temperature overnight, J=the solvents were removed under vacuum and evaporated 3× with xylenes to give a red residue. The residue was dissolved in ethyl acetate and water and neutralized using with ice and solid NaHCO3. After neutralization, ethyl acetate was added and the organic layer was washed with water and brine. The organic layer was dried over Na2SO4 and the solvents were removed under vacuum. The resulting red residue was purified using a gradient of ethyl acetate:hexane (0-100%) to give the desired compound as a brown oil (780 mg; 73%).

reactant | 7-(3-Chloro-pyridin-2-yl)-5,6,7,8-tetrahydro-3H-pyrido[3,4-d]pyrimidin-4-one | 3.8 mmol, 1 g | ClC=1C(=NC=CC1)N1CC=2N=CNC(C2CC1)=O | C12H11ClN4O
reactant | POCl3 | 31 mmole, 2.8 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 3.8 mole, 0.49 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-Chloro-7-(3-chloro-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine | 780 mg, 73% | ClC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2Cl | C12H10Cl2N4
